US06949579B2
N-(6-chloro-1H-indazol-3-yl)butanamide
0.47 cm3 of butyryl chloride is added to 750 mg of 6-chloro-1H-indazole-3-amine in 10 cm3 of pyridine, after the reaction medium has been cooled to about 3° C. The medium is then allowed to return to 19° C. over 14 hours. The reaction medium is evaporated to dryness under reduced pressure (2 kPa; 40° C.). The residue is taken up in 50 cm3 of ethyl acetate, 50 cm3 of tetrahydrofuran and 50 cm3 of distilled water. The organic phase is washed again with 50 cm3 of distilled water and with 50 cm3 of saturated aqueous sodium chloride solution, and then dried over magnesium sulphate, filtered through a sinter funnel and evaporated under reduced pressure. The residue obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with cyclohexane/ethyl acetate (70/30 by volume) and collecting 25 cm3 fractions. The fractions containing the expected product are combined and then evaporated under reduced pressure (2 kPa; 40° C.). After drying (90 Pa; 45° C.), 200 mg of N-(6-chloro-1H-indazol-3-yl)-butanamide are obtained in the form of a white solid melting at 230° C.

reactant | butyryl chloride | 0.47 cm3 | C(CCC)(=O)Cl | C4H7ClO
reactant | 6-chloro-1H-indazole-3-amine | 750 mg | ClC1=CC=C2C(=NNC2=C1)N | C7H6ClN3
solvent | pyridine | 10 cm3 | N1=CC=CC=C1 | C5H5N
product | N-(6-chloro-1H-indazol-3-yl)butanamide | ClC1=CC=C2C(=NNC2=C1)NC(CCC)=O | C11H12ClN3O
